US05674856
113(a) 5'-[(Anthracen-9-yl)methylthio]-5'-deoxythymidine
258 mg (1 mmol) of 5'-deoxy-5'-mercaptothymidine was added to 20 ml of acetone. 272 mg (1.2 mmol) of 9-chloromethylanthracene and 1 g of anhydrous potassium carbonate were then added to the solution under an atmosphere of nitrogen. The resulting mixture was then stirred whilst being heated under reflux for 2 hours. At the end of this time, precipitates were filtered off from the reaction mixture, and the filtrate was freed from the solvent by distillation under reduced pressure. The residue was crystallized from 10 ml of ethanol, to give 156 mg (yield 35%) of the title compound as pale yellow crystals.

reactant | 5'-deoxy-5'-mercaptothymidine | 1 mmol, 258 mg | SC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O | C10H14N2O4S
reactant | 9-chloromethylanthracene | 1.2 mmol, 272 mg | ClCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C15H11Cl
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 5'-[(Anthracen-9-yl)methylthio]-5'-deoxythymidine | 156 mg, yield 35% | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CSC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O | C25H24N2O4S
